US07405210B2
5-Chloro-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid [1-(S)-(4-fluoro-benzyl)-2-(3-hydroxy-pyrrolidin-1-yl)-2-oxo-ethyl]-amide
To a solution of 5-chloro-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid (Preparation 57, 34 mg, 0.17 mmol) in DMF (5 mL) was added 2-(S)-amino-3-(4-fluorophenyl)-1-(3-(S)-hydroxypyrrolidin-1-yl)propan-1-one hydrochloride (Preparation 103, 50 mg, 0.17 mmol), HOBt (23 mg, 0.17 mmol) and DIPEA (94 μL, 0.54 mmol). After 5 min, EDCI (43 mg, 0.23 mmol) was added and the reaction stirred at rt for 16 h. The solvent was removed in vacuo and the residue partitioned between water (25 mL) and ethyl acetate (3×20 mL). The combined organic layer was washed with 2N sodium hydroxide solution (2×10 mL), brine (10 mL), dried (MgSO4) and concentrated in vacuo. Purification via chromatography on silica gel eluting with methanol:dichloromethane (7:93) gave the title compound. m/z (ES+)=431 [M +H]+; RT=3.49 min.

reactant | 5-chloro-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid | 0.17 mmol, 34 mg | ClC=1C=C2C(=NC1)NC(=C2)C(=O)O | C8H5ClN2O2
reactant | 2-(S)-amino-3-(4-fluorophenyl)-1-(3-(S)-hydroxypyrrolidin-1-yl)propan-1-one hydrochloride | 0.17 mmol, 50 mg | Cl.N[C@H](C(=O)N1C[C@H](CC1)O)CC1=CC=C(C=C1)F
reactant | HOBt | 0.17 mmol, 23 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.54 mmol, 94 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 0.23 mmol, 43 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-Chloro-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid [1-(S)-(4-fluoro-benzyl)-2-(3-hydroxy-pyrrolidin-1-yl)-2-oxo-ethyl]-amide | FC1=CC=C(C[C@@H](C(=O)N2CC(CC2)O)NC(=O)C2=CC=3C(=NC=C(C3)Cl)N2)C=C1 | C21H20ClFN4O3
